US05013841
1-Cyclopropyl-5,6-difluoro-7-(1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 28% aqueous ammonia were heated at 100° C. for 48 hours in a sealed tube. The reaction mixture was concentrated to dryness under reduced pressure. The residue was dissolved in a 1N aqueous solution of sodium hydroxide, and neutralized with a 10% aqueous solution of acetic acid. The crystals which precipitated were collected by filtration to give 5-amino-1-cyclopropyl-6-fluoro-7-(1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid. m.p. 214°-216° C.

reactant | 1-Cyclopropyl-5,6-difluoro-7-(1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)N1CCNCC1)F)F)=O)C(=O)O | C17H17F2N3O3
reactant | ammonia | N | H3N
product | 5-amino-1-cyclopropyl-6-fluoro-7-(1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=CC(=C1F)N1CCNCC1)C1CC1)C(=O)O)=O | C17H19FN4O3
